US07189851B2
A. 2-(1,3-dioxolan-2-yl)-1,3-thiazole
A benzene (10 mL) solution of 2-thiazole carboxaldehyde (5.00 g 44.19 mmol), ethylene glycol (7.40 mL, 132.58 mmol) and p-toluenesulfonic acid monohydrate (1.50 g, 7.89 mmol) was refluxed with azeotropic removal of H2O for 3 h and then cooled to ambient temperature. The reaction mixture was diluted with Et2O and the organics washed with sat'd NaHCO3, brine and then dried (MgSO4), filtered and concentrated to provide the title compound as a reddish oil. 1H NMR (CDCl3, 400 MHz) δ 7.79 (d, J=3.1 Hz, 1H), 7.35 (d, J=3.1 Hz, 1H), 6.13 (s, 1H), 4.16–4.01 (m, 4H).

reactant | benzene | 10 mL | C1=CC=CC=C1 | C6H6
reactant | 2-thiazole carboxaldehyde | 44.19 mmol, 5.00 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | ethylene glycol | 132.58 mmol, 7.40 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 7.89 mmol, 1.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 2-(1,3-dioxolan-2-yl)-1,3-thiazole | O1C(OCC1)C=1SC=CN1 | C6H7NO2S
